US05872136
Step A: 3-Phenyl-6-methylpyridine N-oxide
A solution of 3-phenyl-6-methyl pyridine (2.36 g, 13.95 mmol), in CH2Cl2 (40 mL) at 0° C. was treated with MCPBA (3.58 g, 13.95 mmol) for 1 hour. Saturated aq. Na2CO3 (50 mL) was added and the reaction was extracted with CH2Cl2 (20 mL). The organic extracts were dried (MgSO4), and the solvent evaporated in vacuo to afford the title compound.

reactant | 3-phenyl-6-methyl pyridine | 13.95 mmol, 2.36 g | C1(=CC=CC=C1)C=1C=NC(=CC1)C | C12H11N
reactant | MCPBA | 13.95 mmol, 3.58 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Na2CO3 | 50 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 3-Phenyl-6-methylpyridine N-oxide | C1(=CC=CC=C1)C=1C=[N+](C(=CC1)C)[O-] | C12H11NO
